US07256215B2
To a stirred suspension of 5.64 g of 60% sodium hydride in oil in 628 mL of N,N-dimethylformamide was added 34.8 g of 3-(4-benzyloxy-2-hydroxyphenyl)propionamide under ice-cooling, and the mixture was stirred at 50° C. for 40 minutes. To the reaction mixture was added 12.39 g of chloromethyl methyl ether under ice-cooling, and the mixture was stirred at room temperature for 15 hours. After the reaction mixture was concentrated under reduced pressure to remove the solvent, the residue was poured into a mixture of 500 mL of ethyl acetate, 100 mL of toluene and 200 mL of water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to give a colorless solid. The solid was triturated in ethyl acetate-diisopropyl ether and collected by filtration to give 35.3 g of 3-(4-benzyloxy-2-methoxy-methoxyphenyl)propionamide as a colorless solid.

reactant | sodium hydride | 5.64 g | [H-].[Na+]
reactant | 3-(4-benzyloxy-2-hydroxyphenyl)propionamide | 34.8 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CCC(=O)N)O | C16H17NO3
reactant | chloromethyl methyl ether | 12.39 g | COCCl | C2H5ClO
reactant | N,N-dimethylformamide | 628 mL | CN(C=O)C | C3H7NO
product | 3-(4-benzyloxy-2-methoxy-methoxyphenyl)propionamide | 35.3 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)CCC(=O)N)OC)OC | C18H21NO4
